US04298748
The procedure described in Example 5 is followed except that 272 parts of methyl benzoate and 132 parts of ethylenediamine are employed. 277 parts of 2-phenylimidazoline (95% of theory, based on methyl benzoate employed) of boiling point 295° C./1,013 mbar are obtained.

reactant | methyl benzoate | C(C1=CC=CC=C1)(=O)OC | C8H8O2
reactant | ethylenediamine | C(CN)N | C2H8N2
product | 2-phenylimidazoline | 95% | C1(=CC=CC=C1)C=1NCCN1 | C9H10N2
